US06313153B1
A solution of trans-3,4,5-trimethoxy-β-nitrostyrene (4.78 g, 20 mmol) in tetrahydrofuran (20 ml) was dropwise added to a suspension of lithium aluminum hydride (1.52 g) in tetrahydrofuran (20 ml) under ice-cooling and stirring. After stirring at room temperature for 3 hours, water (1.5 ml), 15% aqueous sodium hydroxide solution (1.5 ml), and water (4.5 ml) were sequentially added dropwise to the reaction mixture under ice-cooling and stirring. A small amount of potassium carbonate was added and stirred for a few minutes. Inorganic salts were filtered out and washed with tetrahydrofuran, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 2N hydrochloric acid and washed with dichloromethane. The aqueous layer was made basic with sodium hydroxide and the released oil material was extracted with dichloromethane. After washed with water, the extract was dried over potassium carbonate and the solvent was distilled out under reduced pressure to yield a crude oil of 3,4,5-trimethoxyphenethyl-amine.

reactant | trans-3,4,5-trimethoxy-β-nitrostyrene | 20 mmol, 4.78 g | COC=1C=C(/C=C/[N+](=O)[O-])C=C(C1OC)OC | C11H13NO5
reactant | lithium aluminum hydride | 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 4.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 3,4,5-trimethoxyphenethyl-amine | COC=1C=C(CCN)C=C(C1OC)OC | C11H17NO3
